US07208629B2
HATU (65 mg, 0.17 mmol) was added to a solution of {3′-[(cyclopropylamino)carbonyl}-6′-methyl-biphen-4-yl}carboxylic acid (50 mg, 0.17 mmol) in DMF (2 ml). After 5 minutes HOBT (23 mg, 0.17 mmol), 2-amino-N-methylacetamide (0.17 mmol) and DIPEA (0.087 ml, 0.51 mmol) were added and the reaction mixture stirred at room temperature under nitrogen for 18 hours. The DMF was removed in vacuo and the residue partitioned between DCM (5 ml) and aqueous sodium carbonate solution (1M, 5 ml). The organic phase was purified by SPE cartridge (Si, 5 g) eluting in turn with DCM, chloroform, ether, ethyl acetate, acetonitrile, acetone, ethanol, DCM:ethanol:ammonia (40:8:1, 20:8:1 and 10:8:1). The product fractions were concentrated in vacuo to give N3-cyclopropyl-N4′{[(methylamino)carbonyl]methyl}-6-methyl-1,1′-biphenyl-3,4′-dicarboxamide.

reactant | HATU | 0.17 mmol, 65 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | {3′-[(cyclopropylamino)carbonyl}-6′-methyl-biphen-4-yl}carboxylic acid | 0.17 mmol, 50 mg | C1(CC1)NC(=O)C=1C=C(C2=CC=C(C=C2)C(=O)O)C(=CC1)C | C18H17NO3
reactant | HOBT | 0.17 mmol, 23 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 2-amino-N-methylacetamide | 0.17 mmol | NCC(=O)NC | C3H8N2O
reactant | DIPEA | 0.51 mmol, 0.087 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | N3-cyclopropyl-N4′{[(methylamino)carbonyl]methyl}-6-methyl-1,1′-biphenyl-3,4′-dicarboxamide | C1(CC1)NC(=O)C=1C=C(C(=CC1)C)C1=CC=C(C=C1)C(=O)NCC(=O)NC | C21H23N3O3
